US06521657B2
5′-(3-CYANOPHENYL)SPIRO[CYCLOHEXANE-1,3′-[3H]INDOL]-2′(1′H)-ONE OXIME
3-[Spiro[cyclohexane-1,3′-[3H]indol]-(1′H)-one-2′-(O-benzyloxime)]benzonitrile [3H]indol]-5-yl]benzonitrile Prepared from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) (1.0 g, 2.6 mmol) and 3-cyanophenyl boronic acid (0.76 g, 5.2 mmol) according to Example 45 procedure A. The product was purified by flash silica gel chromatography (eluant: 10:0.5 hexane: ethyl acetate) to give the desired product (0.75 g, 1.8 mmol, 71%) as a viscous oil. 1H NMR (500 MHz, DMSO-d6) δ 1.41-1.81 (8H, m) 1.96-2.03 (2H, q) 5.01 (2H, s) 6.86 (1H, d) 7.28-7.33 (9H, m) 7.95-7.97 (1H, d) 8.12 (1H, s) 9.65 (1H, s); MS (ESI(−ve)) m/z 406 (M−H)−.

reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | 3-cyanophenyl boronic acid | 5.2 mmol, 0.76 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 5′-(3-CYANOPHENYL)SPIRO[CYCLOHEXANE-1,3′-[3H]INDOL]-2′(1′H)-ONE OXIME | 1.8 mmol, 0.75 g, 71% | C(#N)C=1C=C(C=CC1)C=1C=C2C3(C(NC2=CC1)=NO)CCCCC3 | C20H19N3O
